US05925635
N-(3-Cyanophenyl)-N'-(1-(t-butoxycarbonyl)piperidin-4-yl)cycloheptylurea (3.2 g, 7.76 mmol) was stirred in dichloromethane (40 ml) and trifluoroacetic acid (40 ml) at ambient temperature for 1.5 h. The reaction mixture was evaporated and the residue taken up in water. The aqueous suspension was made basic (pH 11) by the dropwise addition of aqueous sodium hydroxide solution (50%). The basic aqueous suspension was extracted with ethyl acetate (2×); the ethyl acetate extracts were washed with brine, dried (Na2SO4), and evaporated to give N-(3-cyanophenyl)-N'-(piperidin-4-yl)cycloheptylurea (2.17 g, 7.28 mmol, 94%). This sample was in all respects identical to the sample of N-(3-cyanophenyl)-N'-(piperidin-4-yl)cycloheptylurea prepared in Example 5.

reactant | N-(3-Cyanophenyl)-N'-(1-(t-butoxycarbonyl)piperidin-4-yl)cycloheptylurea | 7.76 mmol, 3.2 g | C(#N)C=1C=C(C=CC1)N(C(=O)NC1CCN(CC1)C(=O)OC(C)(C)C)C1CCCCCC1 | C25H36N4O3
reactant | trifluoroacetic acid | 40 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | N-(3-cyanophenyl)-N'-(piperidin-4-yl)cycloheptylurea | 7.28 mmol, 2.17 g, 94% | C(#N)C=1C=C(C=CC1)N(C(=O)NC1CCNCC1)C1CCCCCC1 | C20H28N4O
